### PR TITLE
chore(Topology/EMetricSpace/Basic): generalize compact separability to pseudometrizable spaces

### PR DESCRIPTION
**Pull request by yuanyi-350**

### CODE REVIEW

File: Mathlib/Topology/EMetricSpace/Basic.lean [hunk 1]
```diff
@@ -217,14 +218,14 @@ theorem subset_countable_closure_of_almost_dense_set (s : Set α)
...
+a countable set. -/
+theorem subset_countable_closure_of_compact {α : Type*} [TopologicalSpace α]
+    [TopologicalSpace.PseudoMetrizableSpace α] {s : Set α} (hs : IsCompact s) :
     ∃ t, t ⊆ s ∧ t.Countable ∧ s ⊆ closure t := by
-  refine subset_countable_closure_of_almost_dense_set s fun ε hε => ?_
-  rcases totallyBounded_iff'.1 hs.totallyBounded ε hε with ⟨t, -, htf, hst⟩
-  exact ⟨t, htf.countable, hst.trans <| iUnion₂_mono fun _ _ => eball_subset_closedEBall⟩
+  let := TopologicalSpace.pseudoMetrizableSpaceUniformity α
+  have := TopologicalSpace.pseudoMetrizableSpaceUniformity_countably_generated α
+  exact hs.totallyBounded.isSeparable.exists_countable_dense_subset
```
Comment (plp127) [inline Mathlib/Topology/EMetricSpace/Basic.lean]: Since the proof doesn't seem to require `EMetricSpace` theorems, can you move this to an earlier file?
